US07211672B2
(±)-Cis-N-[2-methyl-1-(4-propylamino-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide was prepared from (±)-cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide utilizing the reductive amination conditions described for the synthesis of (±)-cis-N-{1-[4-(2-ethyl-butylamino)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-phenyl-propionamide. Propionaldehyde was substituted for 2-ethylbutyraldehyde. The reaction was poorly selective and afforded approximately equivalent amounts of mono- and di-alkylated products (i.e., (±)-cis-N-[1-(4-dipropylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl propionamidel see below).

reactant | (±)-cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | NC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(CC)=O)C2=CC=CC=C2)C)C=C1 | C26H27N3O2
reactant | (±)-cis-N-{1-[4-(2-ethyl-butylamino)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-phenyl-propionamide | C(C)C(CNC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(CC)=O)C2=CC=CC=C2)C)C=C1)CC | C32H39N3O2
reactant | Propionaldehyde | C(CC)=O | C3H6O
reactant | 2-ethylbutyraldehyde | C(C)C(C=O)CC | C6H12O
product | (±)-Cis-N-[2-methyl-1-(4-propylamino-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | C[C@@H]1N(C2=CC=CC=C2[C@@H](C1)N(C(CC)=O)C1=CC=CC=C1)C(C1=CC=C(C=C1)NCCC)=O | C29H33N3O2
